US04304774
A. 5-Benzylthio-1H-tetrazole
A solution of 30 g. (0.33 mole) of thiosemicarbazide and 51 g. (0.40 mole) of benzyl chloride in 500 ml. of ethyl alcohol was heated at the reflux temperature for about 3.5 hours. After heating, the reaction mixture was evaporated to dryness under reduced pressure and the residue was dissolved in water. The solution was washed with ethyl acetate and was added to a solution of 25 g. (0.36 mole) of sodium nitrite in 50 ml. of water. The solution was stirred for 15 minutes and then ethyl acetate was added. The organic layer was separated and washed with water, brine, and was dried over sodium sulfate. The dried ethyl acetate solution was evaporated under reduced pressure, and the product obtained as a residue was washed with methylene chloride and recrystallized from ethyl acetate. There was obtained 21 g. of the product melting at about 134° C. to about 136° C.

reactant | thiosemicarbazide | 0.33 mole | NNC(=S)N | CH5N3S
reactant | benzyl chloride | 0.40 mole | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | ethyl alcohol | C(C)O | C2H6O
reactant | sodium nitrite | 0.36 mole | N(=O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-Benzylthio-1H-tetrazole | C(C1=CC=CC=C1)SC1=NN=NN1 | C8H8N4S
